US09428512B2
Intermediate 4: 2-Butyl-4-chloro-7-iodo-5H-pyrrolo[3,2-d]pyrimidine
N-Iodosuccinimide (2.09 g, 9.29 mmol) was added portionwise to a stirred solution of 2-butyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidine (1.69 g, 8.06 mmol) in THF (35 mL). The resultant mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with TBME (50 mL) then washed with aqueous sodium thiosulphate solution (50 mL) then saturated aqueous sodium chloride solution (20 mL). The organic phase was dried (Na2SO4), filtered and evaporated. The sample was dissolved in dichloromethane and purified by chromatography on silica using a gradient of 0-100% dichloromethane-cyclohexane over 30 minutes followed by a gradient of 0-100% TBME-cyclohexane followed by 0-20% methanol over 15 minutes. The appropriate fractions were identified by LC-MS then combined and evaporated in vacuo to give the title compound as a yellow solid (2.2 g).

reactant | N-Iodosuccinimide | 9.29 mmol, 2.09 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-butyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 8.06 mmol, 1.69 g | C(CCC)C=1N=C(C2=C(N1)C=CN2)Cl | C10H12ClN3
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | TBME | 50 mL | CC(C)(C)OC | C5H12O
product | 2-Butyl-4-chloro-7-iodo-5H-pyrrolo[3,2-d]pyrimidine | 2.2 g | C(CCC)C=1N=C(C2=C(N1)C(=CN2)I)Cl | C10H11ClIN3
